US09034866B2
10-bromo-9-fluoro-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide (50 mg) was added into a saturated solution of ammonium acetate in Ethanol (2.7 mL) at which point sodium cyanoborohydride (3 eq) and 30% aqueous ammonia solution (1 mL) were added. The mixture was stirred at reflux for 1 hr, until reaction was deemed complete by LC-MS. The reaction was cooled to room temperature, concentrated to dryness and suspended in Methanol. The slurry was loaded onto a biotage scx-2 cartridge, rinsed with Methanol and crude 3-(aminomethyl)-10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was then eluted with a 4N ammonia in methanol solution and concentrated to an orange oil. The crude intermediate was reacted with cyclopropane carboxylic acid similarly to as described in Example 2 to afford crude 10-bromo-3-(cyclopropanecarboxamidomethyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide which was directly reacted with 2-Methyl-3-butyne-ol via General Procedure E to afford 12 mg (33%) of 3-[(cyclopropanecarbonylamino)methyl]-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6,7,12-tetrahydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | 10-bromo-9-fluoro-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | 50 mg | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C=O)C1)F | C15H11BrFN3O2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 3 eq | C(#N)[BH3-].[Na+]
reactant | ammonia | 1 mL | N | H3N
reactant | Ethanol | 2.7 mL | C(C)O | C2H6O
product | 10-bromo-3-(cyclopropanecarboxamidomethyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)CNC(=O)C3CC3)C1)F | C19H18BrFN4O2
